US05223498
Reaction of 3-pentyl-1,1,3-trimethylurea (7.5 g) in benzene (80 ml) with 4-(2-aminophenyl)morpholine (6.46 g) in benzene (30 ml) in the presence of phosphorus oxychloride (4.06 ml) for 45 hours at 70° C. gave 1-pentyl-2-(2-morpholinophenyl)-1,3,3-trimethyl guanidine (b.p. 98° C. at 1.5 mm Hg).

reactant | 3-pentyl-1,1,3-trimethylurea | 7.5 g | C(CCCC)N(C(N(C)C)=O)C | C9H20N2O
reactant | 4-(2-aminophenyl)morpholine | 6.46 g | NC1=C(C=CC=C1)N1CCOCC1 | C10H14N2O
reactant | phosphorus oxychloride | 4.06 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | benzene | 80 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | 1-pentyl-2-(2-morpholinophenyl)-1,3,3-trimethyl guanidine | C(CCCC)N(C(=NC1=C(C=CC=C1)N1CCOCC1)N(C)C)C | C19H32N4O
